US09102631B2
Similarly, compounds of this invention can be prepared as illustrated by the exemplary reaction in Scheme 3. Reaction of cyclopentanone with diethyl carbonate in THF in the presence of NaH produced ethyl 2-oxocyclopentanecarboxylate. Reaction of ethyl 2-oxocyclopentanecarboxy late with urea at 175-185° C. produced 6,7-dihydro-1H-cyclopenta[d]pyrimidine-2,4(3H,5H)-dione. Reaction of 6,7-dihydro-1H-cyclopenta[d]pyrimidine-2,4(3H,5H)-dione with hexamethyldisilazane (HMDS) in toluene in the presence of concentrated sulfuric acid, produced the intermediate 2,4-di(trimethylsilyloxy)-6,7-dihydro-5H-cyclopenta[d]pyrimidine. Reaction of 2,4-di(trimethylsilyloxy)-6,7-dihydro-5H-cyclopenta[d]pyrimidine with methyl 3-(bromomethyl)benzoate in DMF, followed by treatment with 1,4-dioxane and methanol, produced 1-(3-methoxycarbonylbenzyl)-6,7-dihydro-1H-cyclopenta[d]pyrimidine-2,4(3H,5H)-dione. Treatment of the ester with NaOH in water-methanol produced 1-(3-carboxybenzyl)-6,7-dihydro-1H-cyclopenta[d]pyrimidine-2,4(3H,5H)-dione. Coupling of the acid with a substituted amine, such as 1-(pyrimidin-2-yl)piperazine, in the presence of coupling agents, such as HATU and DIPEA in DMF, produced the targeted compound 1-(3-(4-(pyrimidin-2-yl)piperazine-1-carbonyl)benzyl)-6,7-dihydro-1H-cyclopenta[d]pyrimidine-2,4(3H,5H)-dione.

reactant | 2,4-di(trimethylsilyloxy)-6,7-dihydro-5H-cyclopenta[d]pyrimidine | C[Si](OC=1N=C(C2=C(N1)CCC2)O[Si](C)(C)C)(C)C | C13H24N2O2Si2
reactant | methyl 3-(bromomethyl)benzoate | BrCC=1C=C(C(=O)OC)C=CC1 | C9H9BrO2
reactant | 1,4-dioxane | O1CCOCC1 | C4H8O2
reactant | methanol | CO | CH4O
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-(3-methoxycarbonylbenzyl)-6,7-dihydro-1H-cyclopenta[d]pyrimidine-2,4(3H,5H)-dione | COC(=O)C=1C=C(CN2C(NC(C3=C2CCC3)=O)=O)C=CC1 | C16H16N2O4
